US05686454
1-((7,7-Dimethyl-2-oxo-bicyclo(2.2.1)heptan-1-yl)methanesulfonyl)-4-(2-methylphenyl)-3-piperazinone
To a stirred solution of 1-t-butyloxycarbonyl-4-(2-methylphenyl)-3-piperazinone (0.25 g; 0.86 mmol) in dichloromethane (3 mL) was added TFA (1 mL). After 1 hour the solvents were removed under reduced pressure and the residue was taken up into chloroform and evaporated several times to remove excess TFA. The residue was dissolved in chloroform (5 mL) and added to the stirred solution was 10-camphorsulfonyl chloride (376 mg; 1.50 mmol) and triethylamine (0.38 mL; 2.7 mmol). After 12 hours, the mixture was diluted with chloroform (25 mL) and extracted with 5% aqueous HCl (25 mL), water (25 mL), and aqueous NaHCO3 (25 mL). The organic phase was dried (MgSO4), filtered, and the solvent was removed under reduced pressure. The residue was purified by pressurized silica gel column chromatography using 2:1 hexane-ethyl acetate as eluant. The title compound was obtained as a white foam from ether-hexane.

reactant | 1-t-butyloxycarbonyl-4-(2-methylphenyl)-3-piperazinone | 0.86 mmol, 0.25 g | C(C)(C)(C)OC(=O)N1CC(N(CC1)C1=C(C=CC=C1)C)=O | C16H22N2O3
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 10-camphorsulfonyl chloride | 1.50 mmol, 376 mg | CC1(C2CCC1(C(=O)C2)CS(=O)(=O)Cl)C | C10H15ClO3S
reactant | triethylamine | 2.7 mmol, 0.38 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-((7,7-Dimethyl-2-oxo-bicyclo(2.2.1)heptan-1-yl)methanesulfonyl)-4-(2-methylphenyl)-3-piperazinone | CC1(C2(C(CC1CC2)=O)CS(=O)(=O)N2CC(N(CC2)C2=C(C=CC=C2)C)=O)C | C21H28N2O4S
